US06916819B2
Synthesis of 1-Propyl-2-{[2-(2-fluoropyrid-6-yl)-1H-imidazol-1-yl]methyl}-5-cyano-1H-benzimidazole
To a stirring suspension of sodium hydride (2.25 g of 60% in oil) in DMF (10 mL) at 0° a solution of 2-Fluoro-6-(1H-imidazol-2-yl)-pyridine (7.7 9, 47.2 mmol) in DMF (20 mL) is added. After stirring for 5 minutes, a solution of 1-n-Propyl-2-chloromethyl-5-cyanobenzimidazole (11 g, 47.2 mmol) and sodium iodide (20 mg) in DMF (80 mL) is added. The reaction mixture is stirred for 6 h, gradually warmed to room temperature. The reaction mixture is cooled, water added, the solid collected, rinsed with water and dried to afford the title compound, 1-Propyl-2-{[2-(2-fluoropyrid-6-yl)-1H-imidazol-1-yl]methyl}-5-cyano-1H-benzimidazole.

reactant | sodium hydride | 2.25 g | [H-].[Na+]
reactant | 2-Fluoro-6-(1H-imidazol-2-yl)-pyridine | 47.2 mmol | FC1=NC(=CC=C1)C=1NC=CN1 | C8H6FN3
reactant | 1-n-Propyl-2-chloromethyl-5-cyanobenzimidazole | 47.2 mmol, 11 g | C(CC)N1C(=NC2=C1C=CC(=C2)C#N)CCl | C12H12ClN3
reactant | sodium iodide | 20 mg | [I-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-Propyl-2-{[2-(2-fluoropyrid-6-yl)-1H-imidazol-1-yl]methyl}-5-cyano-1H-benzimidazole | C(CC)N1C(=NC2=C1C=CC(=C2)C#N)CN2C(=NC=C2)C2=CC=CC(=N2)F | C20H17FN6
